US05506267
6,7-dihydroxy-4-thiaoctanoic acid methyl ester
To a solution of 3,4-epoxy-2-butanol as obtained in Reference Example 43 (1.13 g) in methylene chloride (4 ml), methyl 3-mercaptopropionate (2.00 ml) and sodium methylate (260 μl) were added under ice cooling conditions, followed by stirring at room temperature for 1 day. To the reaction mixture, 1N hydrochloric acid was added, and the mixture was extracted with ethyl acetate; the solvent was distilled off under reduced pressure. The resulting residue was purified by silica gel column chromatography (ethyl acetate:hexane=2:1) to yield the title compound (1.47 g, yield 55%) as a colorless oily substance.

reactant | 3,4-epoxy-2-butanol | O1C(C(C)O)C1 | C4H8O2
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | methyl 3-mercaptopropionate | 2.00 ml | SCCC(=O)OC | C4H8O2S
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
solvent | sodium methylate | 260 μl | C[O-].[Na+]
product | 6,7-dihydroxy-4-thiaoctanoic acid methyl ester | 1.47 g, yield 55% | COC(CCSCC(C(C)O)O)=O | C8H16O4S
